US06544990B2
N-(4-chlorobenzyl)-8-[3-(4,5-dichloro-1H-imidazol-1-yl)prop-1-ynyl]-1-methyl-6-(morpholin-4-ylmethyl)-4-oxo-1,4-dihydroquinoline-3-carboxamide
To a suspension of N-(4-chlorobenzyl)-8-iodo-1-methyl-6-(morpholin-4-ylmethyl)-4-oxo-1,4-dihydroquinoline-3-carboxamide (300 mg), PdCl2(PPh3)2 (19.1 mg), and CuI (5.2 mg) in Et2NH (6.2 mL) and anhydrous DMF (10 mL) is added 4,5-dichloro-1-prop-2-ynylimidazole (104.8 mg). The reaction is sonicated and stirred at room temperature for 2 days. The reaction is condensed to afford a residue. The residue is adsorbed onto silica and chromatographed (eluant 100% CH2Cl2 (1L), 0.5% MeOH in CH2Cl2 (1L), 1% MeOH in CH2Cl2 (1L), 1.5% MeOH in CH2Cl2 (1L), and 2% MeOH in CH2Cl2 (3L)). Product-containing fractions are combined and condensed to afford 20 mg of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-8-iodo-1-methyl-6-(morpholin-4-ylmethyl)-4-oxo-1,4-dihydroquinoline-3-carboxamide | 300 mg | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CN2CCOCC2)I)C)C=C1 | C23H23ClIN3O3
reactant | 4,5-dichloro-1-prop-2-ynylimidazole | 104.8 mg | ClC=1N=CN(C1Cl)CC#C | C6H4Cl2N2
solvent | Et2NH | 6.2 mL | N(CC)CC | C4H11N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 19.1 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 5.2 mg | [Cu]I
product | N-(4-chlorobenzyl)-8-[3-(4,5-dichloro-1H-imidazol-1-yl)prop-1-ynyl]-1-methyl-6-(morpholin-4-ylmethyl)-4-oxo-1,4-dihydroquinoline-3-carboxamide | 20 mg | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CN2CCOCC2)C#CCN2C=NC(=C2Cl)Cl)C)C=C1 | C29H26Cl3N5O3
